US06294574B1
trans-2-(3-Methoxy-4-p-chlorophenylthioethoxy-5-iodophenyl)-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran (compound 109, FIG. 1).
trans-2-(3-Methoxy-4-methylsulfoxyethoxy-5-iodophenyl)-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran (2.5 g, 4.11 mmol) was dissolved in 50 mL ethanol. To this solution was added 4-chlorothiophenol (1.19 g, 8.22 mmol) and trimethylamine (0.831 g, 8.22 mmol). The reaction mixture was refluxed for 16 hours and then the solvent was removed in vacuo. The residue was purified by column chromatography (silica, 3:1 hexane/ethyl acetate)(2.35 g, 87%). 1H NMR (CDCl3): 1.97 (m, 2H); 2.45 (m, 2H); 3.35 (t, 2H); 3.82 (s, 3H); 3.84 (s, 3H), 3.88 (s, 6H); 4.11 (t, 2H); 5.17 (m, 2H), 6.61 (s, 2H); 6.92 (s, 1H); 7.26 (d, 2H); 7.33 (d, 2H); 7.35 (s, 1H).

reactant | trans-2-(3-Methoxy-4-methylsulfoxyethoxy-5-iodophenyl)-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | 4.11 mmol, 2.5 g | COC=1C(=C(C=C(C1C)I)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC)OCCOS(=O)(=O)O | C23H29IO10S
reactant | 4-chlorothiophenol | 8.22 mmol, 1.19 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | trimethylamine | 8.22 mmol, 0.831 g | CN(C)C | C3H9N
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | trans-2-(3-Methoxy-4-p-chlorophenylthioethoxy-5-iodophenyl)-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | COC=1C=C(C=C(C1OCCSC1=CC=C(C=C1)Cl)I)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C28H30ClIO6S
